US05221676
3-[1-(Phenylmethyl)-3-pyrrolidinyl]benzenemethanamine
A suspension of 3-[1 (phenylmethyl)-3-pyrrolidinyl]benzonitrile (11.90 g, 45.4 mmol) and Raney nickel (5.0 g) in methanol saturated with ammonia (100 mL) was hydrogenated in a Parr shaker at 3 atm. The resulting suspension was filtered through a pad of Celite and the filtrate concentrated to give an off-green liquid. This crude product was chromatographed (silica gel, chloroform methanol 2:1) to give the title compound (10.12 g, 84%) as a colorless oil.

reactant | 3-[1 (phenylmethyl)-3-pyrrolidinyl]benzonitrile | 45.4 mmol, 11.90 g | C1(=CC=CC=C1)CN1CC(CC1)C=1C=C(C#N)C=CC1 | C18H18N2
reactant | ammonia | 100 mL | N | H3N
catalyst | Raney nickel | 5.0 g | [Ni] | Ni
solvent | methanol | CO | CH4O
product | 3-[1-(Phenylmethyl)-3-pyrrolidinyl]benzenemethanamine | 10.12 g, 84% | C1(=CC=CC=C1)CN1CC(CC1)C=1C=C(C=CC1)CN | C18H22N2
